US06967216B2
1-(2-Carboxypropyl)-1,2,4-triazole
A mixture of 1,2,4-triazole (27.6 g) and methacrylic acid (34.4 g) in pyridine (40 ml) was heated at 140° C. for 6 hours. The precipitate was dissolved in hot hydrochloric acid (1%, 400 ml). Charcoal was added and the mixture was filtered hot. The solution was concentrated in vacuo and the colourless solid collected by filtration and washed with cold water. NMR (90 MHz): 8.48 (s, 1H), 7.98 (s, 1H), 4.32 (m, 2H), 2.94 (m, 1H), 1.01 (d, 3H).

reactant | 1,2,4-triazole | 27.6 g | N1N=CN=C1 | C2H3N3
reactant | methacrylic acid | 34.4 g | C(C(=C)C)(=O)O | C4H6O2
reactant | Charcoal | C | CH4
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | 1-(2-Carboxypropyl)-1,2,4-triazole | C(=O)(O)C(CN1N=CN=C1)C | C6H9N3O2
